* F:\Documents\GitHub\Eurorack-Modular-Synth\Modules\VCO\Simulations\CV_in.asc
XU1 0 N006 VCC VEE N007 TL072
V1 VCC 0 12
V2 0 VEE 12
R1 N006 N008 100k
R2 N007 N006 41.2k
Vsweep1 N008 0 AC 1
V3 NC_01 0 SINE(5 5 1) AC 10
R4 0 NC_02 100k
R3 N005 N007 24.9k
R5 out N005 24.9k
C1 out N005 500p
V5 3v3 0 3.3
XU2 0 N005 VCC VEE out TL072
XU3 0 N001 VCC VEE N002 TL072
R6 N001 N004 100k
R7 N002 N001 41.2k
Vsweep2 N004 0 AC 1
V7 NC_03 0 SINE(5 5 1) AC 10
R8 N003 N002 24.9k
R9 out_nocap N003 24.9k
XU4 0 N003 VCC VEE out_nocap TL072
.inc TL072.mod
.ac dec 10000 10 1G
* .tran 0 5 0 100m
.inc TL072.mod
.backanno
.end
