* F:\Documents\GitHub\Eurorack-Modular-Synth\Modules\VCO\Simulations\DAC_output_vcom.asc
XU1 N010 N005 VCC VEE N002 NE5532TI_SN
V2 VCC 0 12
V3 0 VEE 12
R1 N005 N001 2.2k
R2 N002 N001 4.7k
Vsweep N007 0 AC 1
C1 N002 N005 1n
V1 NC_01 0 SINE(2.5 2.5 5k) AC 0
R3 N001 N007 2.4k
C2 0 N001 6.2n
C3 N008 N002 10µ
V4 N010 0 2.5 AC 0
XU2 0 N003 VCC VEE N006 NE5532TI_SN
R4 N009 N008 18k
C4 N006 N003 47p
R5 N004 N003 100k
R6 N004 N006 1k
R7 N004 0 100k
R8 N003 N009 30k
.inc NE5532_SN.mod
* .tran 0 1m 0 10n
.ac dec 10000 10 1G
.four 5000 10 100 V(n002)
.options numdgt = 7
.options plotwinsize = 0
.backanno
.end
