* F:\Documents\GitHub\Eurorack-Modular-Synth\Modules\VCO\Simulations\Draft1.asc
V2 N001 0 3.3 AC 0
R1 N001 detect 100k
R2 detect 0 10k
.tran 1m
.backanno
.end
