* F:\Documents\GitHub\Eurorack-Modular-Synth\Modules\VCO\Simulations\FM_in.asc
XU1 0 N004 VCC VEE N005 TL072
V1 VCC 0 12
V2 0 VEE 12
R1 N004 N006 100k
R2 N005 N004 41.2k
Vsweep1 NC_01 0 AC 1
V3 N006 0 SINE(0 5 1) AC 10
R4 0 NC_02 100k
R3 N002 N005 24.9k
R5 N003 N002 24.9k
V4 N001 0 -0 AC 0
R6 N002 N001 120k
C1 N003 N002 1n
V5 adj 0 5
XU2 0 N002 VCC VEE N003 TL072
R7 NC_03 adj 200k
R8 N004 adj 100k
.inc TL072.mod
;ac dec 10000 10 1G
.tran 0 5 0 100m
.backanno
.end
